US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (39.4 mg, 0.093 mmol) and 4-isocyanatopyridine (Princeton, 27.8 mg, 0.231 mmol) in CH2Cl2 (5 mL) was stirred at rt for 7.5 hrs then more 4-isocyanatopyridine (Princeton, 23.6 mg, 0.196 mmol) was added. After and additions 16 hrs, the reaction mixture was then concentrated and purified by flash column to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid pyridin-4-ylamide (45.3 mg, 89.5%). HRMS (ES+) m/z Calcd for C28H26Cl2F2N4O+H [(M+H)+]: 543.1525; Found: 543.1525.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.093 mmol, 39.4 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 4-isocyanatopyridine | 0.231 mmol, 27.8 mg | N(=C=O)C1=CC=NC=C1 | C6H4N2O
reactant | 4-isocyanatopyridine | 0.196 mmol, 23.6 mg | N(=C=O)C1=CC=NC=C1 | C6H4N2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid pyridin-4-ylamide | 45.3 mg, 89.5% | N1=CC=C(C=C1)NC(=O)N1C(C(C(C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F | C28H26Cl2F2N4O
